US08426604B2
1-(2-Chloro-4-methanesulfonyl-benzyl)-1H-indazole-5-carbaldehyde was prepared from 1H-indazole-5-carbaldehyde and 1-Bromomethyl-2-chloro-4-methanesulfonyl-benzene following General Procedure A.

reactant | 1H-indazole-5-carbaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | 1-Bromomethyl-2-chloro-4-methanesulfonyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
product | 1-(2-Chloro-4-methanesulfonyl-benzyl)-1H-indazole-5-carbaldehyde | ClC1=C(CN2N=CC3=CC(=CC=C23)C=O)C=CC(=C1)S(=O)(=O)C | C16H13ClN2O3S
